US06329381B1
6-Amino-9-benzyl-8-hydroxy-2-[2-(methoxycarbonyl)ethyl]thiopurine
Crude 6-amino-9-benzyl-8-hydroxy-2-mercaptopurine (200 mg, 0.73 mmol) was suspended in dimethylformamide (80 ml). To the suspension were added potassium carbonate (150 mg, 1.1 mmol) and methyl 3-bromopropionate (0.12 ml, 1.1 mmol) in order. The mixture was stirred at room temperature for 2 hours. The solvent was removed in vacuo, and the residue was purified by silica gel chromatography (3% methanol/chloroform) to give the subject compound (146 mg, yield 56%).

reactant | 6-amino-9-benzyl-8-hydroxy-2-mercaptopurine | 0.73 mmol, 200 mg | NC1=C2N=C(N(C2=NC(=N1)S)CC1=CC=CC=C1)O | C12H11N5OS
reactant | potassium carbonate | 1.1 mmol, 150 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 3-bromopropionate | 1.1 mmol, 0.12 ml | BrCCC(=O)OC | C4H7BrO2
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 6-Amino-9-benzyl-8-hydroxy-2-[2-(methoxycarbonyl)ethyl]thiopurine | 146 mg, yield 56% | NC1=C2N=C(N(C2=NC(=N1)SCCC(=O)OC)CC1=CC=CC=C1)O | C16H17N5O3S
